US07713994B2
1-(2-Fluoro-4-nitro-phenyl)-pyrrolidine-2-carbaldehyde
[1-(2-Fluoro-4-nitro-phenyl)-pyrrolidin-2-yl]-methanol (100 mg, 0.42 mmol) and Dess-Martin periodate (175 mg, 0.42 mmol) is stirred in CH2Cl2 overnight. After chromatography, the desired product is isolated (100 mg, ˜100%): 1H NMR (300 MHz, CDCl3) 9.67 (1H, s), 7.85-7.98 (2H, m), 6.66 (1H, t, J=9.0 Hz), 4.65-4.72 (1H, m), 3.49-3.75 (2H, m), 1.89-2.30 (4H, m).

reactant | [1-(2-Fluoro-4-nitro-phenyl)-pyrrolidin-2-yl]-methanol | 0.42 mmol, 100 mg | FC1=C(C=CC(=C1)[N+](=O)[O-])N1C(CCC1)CO | C11H13FN2O3
reactant | Dess-Martin periodate | 0.42 mmol, 175 mg | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C.I(=O)(=O)(=O)[O-]
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 1-(2-Fluoro-4-nitro-phenyl)-pyrrolidine-2-carbaldehyde | FC1=C(C=CC(=C1)[N+](=O)[O-])N1C(CCC1)C=O | C11H11FN2O3
